* RF LNA - Common Source with Inductive Degeneration
.lib "$PDK_ROOT/sky130A/libs.tech/combined/sky130.lib.spice" tt

.options temp=27
.param F0=2400000000.0
.csparam f0=2400000000.0
.param VDD=1.8
.param VG=0.75
.param WNMOS=62.66389586381514
.param LNMOS=0.15
.param LG=8e-09
.param LS=1.5e-09
.param LD=6.806422274751015e-09

VDD vdd 0 DC {VDD}
VBIAS vbias 0 DC {VG}

VIN       src 0 AC 1 DC 0
Rsource   src in 50
CIN       in p1 1p
LGATE p1 gate {LG}
RBIAS gate vbias 1MEG
LSRC source 0 {LS}
xn1 drain gate source 0 sky130_fd_pr__nfet_01v8 l={LNMOS} w={WNMOS}
LLOAD vdd drain {LD}
COUT drain out 1p
RLOAD out 0 50

.control
set sqrnoise
op
let idd = -i(VDD)
let pdc = v(vdd) * idd
echo idd = "$&idd"
echo pdc = "$&pdc"
ac dec 200 100MEG 10G

setplot ac1
let gain_db_vector = db(v(out)/v(in))
meas ac gain_db       find    gain_db_vector                at=2400000000.0
let gain_3db = gain_db - 3
meas ac f_3db_low    when    gain_db_vector=gain_3db      rise=1
meas ac f_3db_high   when    gain_db_vector=gain_3db      fall=1
if (f_3db_low eq 0)
  let f_3db_low = 100MEG
end
if (f_3db_high eq 0)
  let f_3db_high = 10G
end
noise v(out) VIN dec 200 $&f_3db_low $&f_3db_high

setplot ac1
let vin_re_vector = real(v(in))
meas ac vin_re       find    vin_re_vector                     at=2400000000.0
let vin_im_vector = imag(v(in))
meas ac vin_im       find    vin_im_vector                     at=2400000000.0
let iin_re_vector = real(i(VIN))
meas ac iin_re       find    iin_re_vector                  at=2400000000.0
let iin_im_vector = imag(i(VIN))
meas ac iin_im       find    iin_im_vector                    at=2400000000.0
let vout_re_vector = real(v(out))
meas ac vout_re      find    vout_re_vector                    at=2400000000.0
let vout_im_vector = imag(v(out))
meas ac vout_im      find    vout_im_vector                    at=2400000000.0
setplot noise1
let nn = 0
while frequency[nn] < f0
  let nn = nn +1
end
let fnn = frequency[nn]
let nn1 = nn -1
let fnn1 = frequency[nn1]
let onn = onoise_spectrum[nn]
let onn1 = onoise_spectrum[nn1]
let onoise = onn1 +(f0 - fnn1)*(onn - onn1)/(fnn - fnn1)
echo out_noise 						= "$&onoise"
let inn = inoise_spectrum[nn]
let inn1 = inoise_spectrum[nn1]
let inoise = inn1 +(f0 - fnn1)*(inn - inn1)/(fnn - fnn1)
echo in_noise 						= "$&inoise"
setplot noise2
print inoise_total
print onoise_total
.endc
.end
